US04056537
To a solution of tryptophol (15 g, 0.09 M) in 150 ml of benzene, 5-chloro-2-pentanone (12 g, 0.10 M) is added. The mixture is heated in the presence of 200 mg of p-toluenesulfonic acid and hydrated alkali-aluminum silicate (Molecular Sieves No. 4). After 1 hr. of refluxing, 400 mg more of acid is added. After a total of 2 hr. the reaction is cooled, filtered and washed with 5% sodium bicarbonate, water and dried over sodium sulfate. Evaporation under reduced pressure affords an oil. This oil is purified by chromatography on silica gel. Elution with benzene and concentration of the eluent gives 1-(3-chloropropyl)-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole, nmr (CDCl3) δ1.33 (3H); 1.93 (4H), 2.75 (2H).

reactant | tryptophol | 0.09 M, 15 g | C=1C=CC2=C(C1)C(=CN2)CCO | C10H11NO
reactant | 5-chloro-2-pentanone | 0.10 M, 12 g | ClCCCC(C)=O | C5H9ClO
reactant | p-toluenesulfonic acid | 200 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 1-(3-chloropropyl)-1-methyl-1,3,4,9-tetrahydropyrano[3,4-b]indole | ClCCCC1(OCCC2=C1NC1=CC=CC=C21)C | C15H18ClNO
